US07262212B2
A mixture of 4-(4-trifluoromethylphenoxy)-piperidine (1.87 g, 7.63 mmol), 2-(2-bromoethoxy)-tetrahydropyran (1.75 g, 8.4 mmol), potassium carbonate (1.16 g, 8.38 mmol), sodium iodide (1.2 g, 8.01 mmol) in DMF (30 ml) was stirred at 100° C. for 1 hour. The reaction mixture was allowed to return to room temperature, poured into water and extracted with ethyl acetate twice. The extract was washed with water twice and brine, and dried over magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methylene chloride/methanol=50/1) to afford 1-[2-(tetrahydropyran-2-yloxy)ethyl]-4-(4-trifluoromethylphenoxy)piperidine (1.69 g, yield 59%) as a colorless oil.

reactant | 4-(4-trifluoromethylphenoxy)-piperidine | 7.63 mmol, 1.87 g | FC(C1=CC=C(OC2CCNCC2)C=C1)(F)F | C12H14F3NO
reactant | 2-(2-bromoethoxy)-tetrahydropyran | 8.4 mmol, 1.75 g | BrCCOC1OCCCC1 | C7H13BrO2
reactant | potassium carbonate | 8.38 mmol, 1.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 8.01 mmol, 1.2 g | [I-].[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-[2-(tetrahydropyran-2-yloxy)ethyl]-4-(4-trifluoromethylphenoxy)piperidine | 1.69 g, yield 59% | O1C(CCCC1)OCCN1CCC(CC1)OC1=CC=C(C=C1)C(F)(F)F | C19H26F3NO3
